US04171203
A: 3,5-dinitro-2-phenyloxytoluene
A mixture of 6 gm of 3,5-dinitro-2-bromotoluene and 3 gm of potassium phenolate in 20 ml of dimethyl formamide was boiled under reflux for 20 hours. Subsequently, the solution was poured on 200 gm of ice and the precipitate was filtered off. After recrystallization from ethanol, there was obtained 1.1 gm of yellow crystals with a melting point of 103° C. The mass spectrum showed a molecular mass of 274 (calculated 274).

reactant | 3,5-dinitro-2-bromotoluene | 6 gm | [N+](=O)([O-])C=1C(=C(C=C(C1)[N+](=O)[O-])C)Br | C7H5BrN2O4
reactant | potassium phenolate | 3 gm | C1(=CC=CC=C1)[O-].[K+]
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | 3,5-dinitro-2-phenyloxytoluene | 1.1 gm | [N+](=O)([O-])C=1C(=C(C=C(C1)[N+](=O)[O-])C)OC1=CC=CC=C1 | C13H10N2O5
